US04943573
1-[4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]-quinolin-7-yl)oxy]-1-oxobutyl]-4-methylpiperazine
Reaction of N-methylpiperazine and 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid (2 g) analogously to the procedure of Example 4 gave the title compound as the hydrated dihydrochloride salt; yield 2.85 g (92%), m.p. 286°-288° C. (dec.).

reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid | 2 g | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)O)N1 | C14H13N3O4
product | 1-[4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]-quinolin-7-yl)oxy]-1-oxobutyl]-4-methylpiperazine | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)N2CCN(CC2)C)N1 | C19H23N5O3
